US04457925
A solution of 6.8 g of 3-acetoxy-1α,2α-methylene-5α-androstan -17β-ol in 68 ml of dichloromethane is combined with 10.2 g of pyridinium chlorochromate and stirred for one hour at room temperature, then diluted with diethyl ether, washed with water, and dried. Evaporation yields 7.0 g of 3-acetoxy-1α, 2α-methylene -5α-androstan-17-one.

reactant | 3-acetoxy-1α,2α-methylene-5α-androstan -17β-ol | 6.8 g | C(C)(=O)OC1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2([C@@H]2[C@H]1C2)C)O | C22H34O3
reactant | pyridinium chlorochromate | 10.2 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 68 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-acetoxy-1α, 2α-methylene -5α-androstan-17-one | 7.0 g | C(C)(=O)OC1C[C@@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2([C@@H]2[C@H]1C2)C)=O | C22H32O3
